US04160036
(a) 4-(2-Fluorophenyl)-2-butanone
A stirred mixture of 2-fluorobenzyl chloride (22.47 g), acetylacetone (17.10 g), anhydrous potassium carbonate (21.5 g) and ethanol (155 ml) was heated at reflux for 18 hr. The solvent was evaporated and the residue was partitioned between water (200 ml) and ether (150 ml). The aqueous layer was washed with ether (3×150 ml). The extracts were combined, washed with brine (200 ml), dried (MgSO4) and evaporated. Distillation of the residue under reduced pressure gave the product (17 g) b.p. 58°-66°/0.5-0.6 mm.

reactant | 2-fluorobenzyl chloride | 22.47 g | FC1=C(CCl)C=CC=C1 | C7H6ClF
reactant | acetylacetone | 17.10 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | potassium carbonate | 21.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 155 ml | C(C)O | C2H6O
product | 4-(2-Fluorophenyl)-2-butanone | 17 g | FC1=C(C=CC=C1)CCC(C)=O | C10H11FO
